US07268230B2
Using an analogous procedure to that described for the preparation of the starting material in Example 11, tert-butyl (2R)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (1.48 g, 7.37 mmol) was reacted with 4-(4-fluoro-2-methylindol-5-yloxy)-7-hydroxy-6-methoxyquinazoline (1.0 g, 2.95 mmol), (prepared as described for the starting material in Example 7), and the product purified by column chromatography, eluting with methanol/methylene chloride (1/9) containing 0.1% triethylamine to give tert-butyl (2R)-2-[(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazolin-7-yloxy)methyl]pyrrolidine 1-carboxylate (970 mg, 62%).

reactant | tert-butyl (2R)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 7.37 mmol, 1.48 g | OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 4-(4-fluoro-2-methylindol-5-yloxy)-7-hydroxy-6-methoxyquinazoline | 2.95 mmol, 1.0 g | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)O)C | C18H14FN3O3
product | tert-butyl (2R)-2-[(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazolin-7-yloxy)methyl]pyrrolidine 1-carboxylate | 970 mg, 62% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C)C | C28H31FN4O5
